* Reference solution: Sky130 all-NMOS half-bridge bootstrap driver.
* DUT ports: GN GN2 IN VBST VDD VLX VSS VSW
*
* The testbench connects a designable off-chip bootstrap capacitor between the
* VBST and VLX pads through the wirebond parasitics. You choose its value by
* declaring .param cboot=<value> (default 620 pF here, limit <= 100 nF).
*   - GN   : high-side gate output (floating domain, referenced to VBST/VLX)
*   - GN2  : low-side gate output (VDD/VSS domain)
*   - IN   : PWM input
*   - VBST : bootstrap cap top terminal
*   - VDD  : driver supply
*   - VLX  : floating reference for the bootstrap driving (bootstrap cap bottom)
*   - VSS  : ground
*   - VSW  : switch node (midpoint of the external half-bridge power stage)

* Device policy:
*   - The buffers that directly drive GN/GN2 use 1.8 V devices
*     (sky130_fd_pr__pfet_01v8 / nfet_01v8_lvt).
*   - The bootstrap charging path (PM2 VDD->VBST, NM1 VSW->VLX) and the level
*     shifters use 5 V devices (sky130_fd_pr__pfet_g5v0d10v5 / nfet_g5v0d10v5).
*   - The on-chip MIM bootstrap cap is sized 30x30 um x m=30 (27000 um^2). The
*     expanded total on-chip device area (transistors + MIM cap) is ~33670 um^2,
*     within the published 35000 um^2 budget (enforced by the area gate).
*   - The designable off-chip bootstrap cap (cboot = 620 pF here, <= 100 nF)
*     is connected by the testbench through the wirebond parasitics.
*
* Device voltage constraints (enforced by the verifier on external nodes):
*   - v(VBST)-v(VLX) and v(GN2) peaks must stay < 2.15 V (1.8 V devices).
*   - v(VBST) peak must stay < 5.65 V (5 V devices).
*   - The testbench adds 0.3 nH / 3 mOhm off-chip parasitics on the VDD and
*     VSS supply rails; the design must operate correctly with them.

* Off-chip bootstrap capacitor value (design variable, <= 100 nF).
.param cboot=620p

* ============================================================
* Subcircuit: inv (standard inverter, generic rails)
* ============================================================
.subckt inv in out vdd vss
XMP0 out in vdd vdd sky130_fd_pr__pfet_01v8 w=0.55 l=0.15 m=1
XMN0 out in vss vss sky130_fd_pr__nfet_01v8 w=0.42 l=0.15 m=1
.ends inv

* ============================================================
* Subcircuit: nand (2-input NAND)
* ============================================================
.subckt nand a b q vdd vss
XMP1 q b vdd vdd sky130_fd_pr__pfet_01v8 w=0.55 l=0.15 m=1
XMP0 q a vdd vdd sky130_fd_pr__pfet_01v8 w=0.55 l=0.15 m=1
XMN1 net12 b vss vss sky130_fd_pr__nfet_01v8 w=0.42 l=0.15 m=1
XMN0 q a net12 vss sky130_fd_pr__nfet_01v8 w=0.42 l=0.15 m=1
.ends nand

* ============================================================
* Subcircuit: delay_chain (8-stage inverter chain for dead-time)
* ============================================================
.subckt delay_chain in out vdd vss
XMN7 out net045 vss vss sky130_fd_pr__nfet_01v8 w=1 l=1 m=1
XMN6 net045 net043 vss vss sky130_fd_pr__nfet_01v8 w=1 l=1 m=1
XMN5 net043 net041 vss vss sky130_fd_pr__nfet_01v8 w=1 l=1 m=1
XMN4 net041 net039 vss vss sky130_fd_pr__nfet_01v8 w=1 l=1 m=1
XMN3 net039 net9 vss vss sky130_fd_pr__nfet_01v8 w=1 l=1 m=1
XMN2 net9 net7 vss vss sky130_fd_pr__nfet_01v8 w=1 l=1 m=1
XMN1 net7 net5 vss vss sky130_fd_pr__nfet_01v8 w=1 l=1 m=1
XMN0 net5 in vss vss sky130_fd_pr__nfet_01v8 w=1 l=1 m=1
XMP7 out net045 vdd vdd sky130_fd_pr__pfet_01v8 w=1 l=1 m=1
XMP6 net045 net043 vdd vdd sky130_fd_pr__pfet_01v8 w=1 l=1 m=1
XMP5 net043 net041 vdd vdd sky130_fd_pr__pfet_01v8 w=1 l=1 m=1
XMP4 net041 net039 vdd vdd sky130_fd_pr__pfet_01v8 w=1 l=1 m=1
XMP3 net039 net9 vdd vdd sky130_fd_pr__pfet_01v8 w=1 l=1 m=1
XMP2 net9 net7 vdd vdd sky130_fd_pr__pfet_01v8 w=1 l=1 m=1
XMP1 net7 net5 vdd vdd sky130_fd_pr__pfet_01v8 w=1 l=1 m=1
XMP0 net5 in vdd vdd sky130_fd_pr__pfet_01v8 w=1 l=1 m=1
.ends delay_chain

* ============================================================
* Subcircuit: non_overlap (dead-time generation)
* ============================================================
.subckt non_overlap clk p1 p2 vdd vss
XI5 net03 p2 vdd vss inv
XI0 clk net5 vdd vss inv
XI3 p1 clk net4 vdd vss nand
XI1 net5 net03 net6 vdd vss nand
XI4 net4 net03 vdd vss delay_chain
XI2 net6 p1 vdd vss delay_chain
.ends non_overlap

* ============================================================
* Subcircuit: buffer (large gate driver, 4 stages, 1.8V devices)
* ============================================================
.subckt buffer in out vdd vss
XMP4 net69 in vdd vdd sky130_fd_pr__pfet_01v8 w=12 l=0.15 m=1
XMP3 net71 net69 vdd vdd sky130_fd_pr__pfet_01v8 w=50 l=0.15 m=1
XMP2 net73 net71 vdd vdd sky130_fd_pr__pfet_01v8 w=50 l=0.15 m=4
XMP1 out net73 vdd vdd sky130_fd_pr__pfet_01v8 w=50 l=0.15 m=16
XMN2 net73 net71 vss vss sky130_fd_pr__nfet_01v8_lvt w=50 l=0.15 m=2
XMN3 net71 net69 vss vss sky130_fd_pr__nfet_01v8_lvt w=25 l=0.15 m=1
XMN4 net69 in vss vss sky130_fd_pr__nfet_01v8_lvt w=6 l=0.15 m=1
XMN1 out net73 vss vss sky130_fd_pr__nfet_01v8_lvt w=50 l=0.15 m=8
.ends buffer

* ============================================================
* Subcircuit: buffers (small gate driver, 4 stages, 1.8V devices)
* ============================================================
.subckt buffers in out vdd vss
XMP4 net69 in vdd vdd sky130_fd_pr__pfet_01v8 w=1 l=0.15 m=1
XMP3 net71 net69 vdd vdd sky130_fd_pr__pfet_01v8 w=4 l=0.15 m=1
XMP2 net73 net71 vdd vdd sky130_fd_pr__pfet_01v8 w=16 l=0.15 m=1
XMP1 out net73 vdd vdd sky130_fd_pr__pfet_01v8 w=16 l=0.15 m=4
XMN2 net73 net71 vss vss sky130_fd_pr__nfet_01v8_lvt w=8 l=0.15 m=1
XMN3 net71 net69 vss vss sky130_fd_pr__nfet_01v8_lvt w=2 l=0.15 m=1
XMN4 net69 in vss vss sky130_fd_pr__nfet_01v8_lvt w=1 l=0.15 m=1
XMN1 out net73 vss vss sky130_fd_pr__nfet_01v8_lvt w=8 l=0.15 m=4
.ends buffers

* ============================================================
* Subcircuit: lvl2 (level shifter, 5V devices)
*   ports: in out vbst vdd vlx vss
* ============================================================
.subckt lvl2 in out vbst vdd vlx vss
XINV0 net7 net15 vdd vss inv
XINV1 net15 out vdd vss inv
XINV2 in net16 vbst vlx inv
XPM1 net17 in vbst vbst sky130_fd_pr__pfet_g5v0d10v5 w=0.5 l=0.5 m=1
XPM0 net18 net16 vbst vbst sky130_fd_pr__pfet_g5v0d10v5 w=0.5 l=0.5 m=1
XNM1 net17 vlx net8 vss sky130_fd_pr__nfet_g5v0d10v5 w=0.75 l=0.5 m=4
XNM0 net18 vlx net7 vss sky130_fd_pr__nfet_g5v0d10v5 w=0.75 l=0.5 m=4
XNM3 net7 net8 vss vss sky130_fd_pr__nfet_01v8 w=0.42 l=0.15 m=2
XNM2 net8 net8 vss vss sky130_fd_pr__nfet_01v8 w=0.42 l=0.15 m=1
.ends lvl2

* ============================================================
* Subcircuit: lvl3 (cross-coupled latch level shifter, 5V devices)
*   ports: in out vdd1 vdd2 vss
*   vdd1 = VDD (low domain), vdd2 = VBST (floating high domain)
*   No VLX source follower: OUT is pulled up to vdd2 (VBST) and pulled
*   down to vss, so the output does not degrade as the floating node rises.
* ============================================================
.subckt lvl3 in out vdd1 vdd2 vss
XPM3 out net14 vdd2 vdd2 sky130_fd_pr__pfet_g5v0d10v5 w=0.5 l=0.5 m=1
XPM1 net3 net14 vdd2 vdd2 sky130_fd_pr__pfet_g5v0d10v5 w=0.5 l=0.5 m=1
XPM0 net14 net3 vdd2 vdd2 sky130_fd_pr__pfet_g5v0d10v5 w=0.5 l=0.5 m=1
XNM0 net1 in vss vss sky130_fd_pr__nfet_01v8 w=0.42 l=0.15 m=1
XPM2 net1 in vdd1 vdd1 sky130_fd_pr__pfet_01v8 w=0.55 l=0.15 m=1
XNM3 out net14 vss vss sky130_fd_pr__nfet_g5v0d10v5 w=0.75 l=0.5 m=1
XNM2 net14 in vss vss sky130_fd_pr__nfet_g5v0d10v5 w=0.75 l=0.5 m=4
XNM1 net3 net1 vss vss sky130_fd_pr__nfet_g5v0d10v5 w=0.75 l=0.5 m=4
.ends lvl3

* ============================================================
* Top-level DUT: bootstrap_driver
*   Ports: GN GN2 IN VBST VDD VLX VSS VSW
*
*   Charging path: PM2 (VDD->VBST) + NM1 (VSW->VLX), 5V devices.
*   On-chip MIM bootstrap cap: 30x30 um x m=30 (27000 um^2); total on-chip device
*   expanded area ~33670 um^2 is within the 35000 um^2 budget.
*   Level shifters + floating buffer drive GN; buffer drives GN2.
*   Non-overlap dead-time generation; the dead time is externally verified via
*   the vgs = v(GN)-v(VSW) and v(GN2) timing.
*   Off-chip bootstrap cap: designable via .param cboot (620 pF here, <= 100 nF).
* ============================================================
.subckt bootstrap_driver GN GN2 IN VBST VDD VLX VSS VSW
XLVL2 GN net18 VBST VDD VLX VSS lvl2
XLVL3 p1_int P1UP VDD VBST VSS lvl3
XINV34 net03 net016 VBST VLX inv
XINV31 net028 net02 VDD VSS inv
XINV17 net08 p1_int VDD VSS inv
XINV5 net19 net013 VDD VSS inv
XINV4 net18 net19 VDD VSS inv
XBUFF12 net028 GN2 VDD VSS buffer
XBUFF11 net016 GN VBST VLX buffer
XPM1 net7 net013 net17 VDD sky130_fd_pr__pfet_01v8 w=0.55 l=0.15 m=1
XPM0 net17 net02 VDD VDD sky130_fd_pr__pfet_01v8 w=0.55 l=0.15 m=1
XNM1 VLX net16 VSS VSS sky130_fd_pr__nfet_01v8 w=50 l=0.15 m=64
XNM0 net7 net02 VSS VSS sky130_fd_pr__nfet_01v8 w=0.42 l=0.15 m=1
XNM5 net03 P1UP VLX VLX sky130_fd_pr__nfet_g5v0d10v5 w=0.75 l=0.5 m=1
XNM2 VSW GN VLX VSS sky130_fd_pr__nfet_g5v0d10v5 w=50 l=0.5 m=82
XPM5 net03 P1UP VBST VBST sky130_fd_pr__pfet_g5v0d10v5 w=0.5 l=0.5 m=1
XPM2 VDD GN VBST VBST sky130_fd_pr__pfet_g5v0d10v5 w=50 l=0.5 m=144
XC0 VBST VLX sky130_fd_pr__cap_mim_m3_1 l=30 w=30 m=30
XNON IN net08 net028 VDD VSS non_overlap
XBUFF7 net7 net16 VDD VSS buffers
.ends bootstrap_driver
