* Public development testbench: all-NMOS half-bridge bootstrap high-side gate driver.
* DUT: .subckt bootstrap_driver GN GN2 IN VBST VDD VLX VSS VSW
* Single representative point: TT corner, 27 C, 1.8 V supply, 50 ns input pulse.
* This bench mirrors the hidden verifier's measurement semantics for every scored
* capability so you can check your design before submission:
*   g1  dead time between high-side (vgs) and low-side (GN2) gate drives in [3,7] ns
*   g2  driver power = |1.8*avg(I_VDDDUT)| < 3.5 mW (includes bootstrap charging)
*   g3  high-side gate-drive voltage average in [1.65,1.85] V during VSW>0.9
*   g4  gate-drive voltage transient peak < 2.15 V   (vgs = v(GN)-v(VSW))
*   g5  peak high-side power current < 800 mA (severe shoot-through guardrail)
*   g6  device node voltage limits: vbst-vlx, gn2 < 2.15 V; vbst < 5.65 V
* The external power stage (two 450x50um 1.8V NMOS), the 3.6 ohm load, the
* wirebond parasitics (2 nH / 5 mOhm) and the designable off-chip bootstrap
* capacitor (cboot from the DUT's .param cboot, <= 100nF) are provided here.
* Use this to verify your design before submission.
*
* NOTE: the hidden signoff runs the full 3 corners x 3 temps x 3 pulse widths
* (9 points per corner) over the 0.5us-1us window. This public bench is a single
* representative point to help you iterate; passing it is necessary but not sufficient.

.lib "/opt/sky130/continuous/sky130.lib.spice" tt
.include "../circuit.spi"
.options reltol=1e-4 abstol=1e-10 vntol=1e-6 method=trap

.param supply=1.8
.param pw=50n
.param temperature=27

VSS vss 0 0
VDD vdd 0 {supply}
VDDDUT vdd_dut vdd 0
VHS vdd_hs vdd 0
VIN src 0 PULSE(0 {supply} 0 3n 3n {pw} 100n)
RIN src in 50

* Off-chip parasitic inductance/resistance on DUT supply rails (VDD, VSS): 0.3nH, 3mOhm
LVDD vdd_dut vdd_pkg 0.3n
RVDD vdd_pkg vdd_core 3m
LVSS vss vss_pkg 0.3n
RVSS vss_pkg vss_core 3m

* DUT ports: GN GN2 IN VBST VDD VLX VSS VSW
XBD hi_g lo_g in vbst vdd_core vlx vss_core vsw bootstrap_driver

* External bootstrap network (designable off-chip cap from DUT's .param cboot + wirebond parasitics)
L0 vbst net9 2n
RL0 net9 net9b 5m
L1 vlx ext_vlx 2n
RL1 ext_vlx ext_vlx2 5m
C0 net9b ext_vlx2 {cboot}

* External power stage (1.8V NMOS, 450 fingers x 50um)
XMN1 vdd_hs hi_g vsw ext_vlx2 sky130_fd_pr__nfet_01v8 w=50 l=0.15 m=450
XMN0 vsw lo_g vss vss sky130_fd_pr__nfet_01v8 w=50 l=0.15 m=450

* Load
R0 vsw vss 3.6

* Behavioral node: vgs = v(hi_g) - v(vsw)
E_VGS vgs 0 value={v(hi_g)-v(vsw)}
* Behavioral node: |high-side power NMOS current| (for shoot-through peak)
E_ABS_HS abs_hs 0 value={abs(i(vhs))}
* Behavioral node: bootstrap-cap voltage (1.8V device overstress check)
E_VBST_CAP vbst_cap 0 value={v(vbst)-v(vlx)}

.temp {temperature}

.control
set noaskquit
set temp = 27
tran 0.4n 1u 0.5u 0.4n
* --- g4: gate-drive transient peak ---
meas tran vgs_peak MAX v(vgs) from=0.5u to=1u
* --- g5: high-side power current peak (shoot-through) ---
meas tran hs_peak MAX v(abs_hs) from=0.5u to=1u
meas tran vbst_peak MAX v(vbst_cap) from=0.5u to=1u
meas tran gn2_peak MAX v(lo_g) from=0.5u to=1u
meas tran vbst_top_peak MAX v(vbst) from=0.5u to=1u
* --- g1: dead time (high->low: vgs falls, GN2 rises) ---
meas tran dead_hl TRIG v(vgs) VAL=0.9 FALL=2 TARG v(lo_g) VAL=0.9 RISE=2 from=0.5u to=1u
* --- g1: dead time (low->high: GN2 falls, vgs rises) ---
meas tran dead_lh TRIG v(lo_g) VAL=0.9 FALL=2 TARG v(vgs) VAL=0.9 RISE=2 from=0.5u to=1u
* --- g3: vgs_avg = time-weighted average during VSW>0.9 ---
let vgsv = v(vgs)
let hon = v(vsw) > 0.9
let vgs_on = vgsv * hon
let vgs_on_int = integ(vgs_on)
let hon_int = integ(hon)
let vgs_avg = vgs_on_int[length(vgs_on_int)-1] / hon_int[length(hon_int)-1]
* --- g2: driver power = |1.8*avg(I_VDDDUT)| ---
let pv = 1.8 * i(vdddut)
let pv_int = integ(pv)
let dt = time[length(time)-1] - time[0]
let p_dut = abs(pv_int[length(pv_int)-1] / dt)
print vgs_peak hs_peak dead_hl dead_lh vgs_avg p_dut vbst_peak gn2_peak vbst_top_peak
quit
.endc
.end
